US07683168B2
6-(4-{3-[(R)-((2S,5R)-4-Cyclopropylmethyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester
The title compound was made by a procedure identical to that of Example 96 with 1.50 g of 6-(4-{3-[(R)-((2S,5 R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester (2.72 mmol) and 0.38 g of cyclopropanecarboxaldehyde (5.5 mmol) to give 0.63 g of desired compound as a white solid. 1H NMR (300 MHz, d6-DMSO): □ 0.02-0.03 (m, 2H); 0.38-0.41 (d, J=7.7 Hz, 2H); 0.73-0.75 (m, 1H); 0.86-0.88 (d, J=5.7 Hz, 3H); 1.08-1.10 (d, J=6.0 Hz, 3H); 1.12-1.17 (t, 3H), 1.21-1.28 (m, 2H); 1.37-1.55 (m, 4H); 1.73-1.80 (m, 1H); 2.07-2.33 (m, 8H); 2.48-2.62 (m, 5H); 2.86-2.89 (dd, 1H); 3.27-3.33 (m, 4H); 3.53-3.56 (m, 1H); 3.98-4.05 (q, 2H); 5.04 (s, 1H); 6.62-6.66 (m, 3H); 7.10-7.15 (t, 1H); 7.18-7.20 (dd, 1H); 7.32-7.40 (m, 3H); 9.34 (s, 1H). MS: 604.9 (M+1, 70%), 437.1 (50%), 209.1 (75%), 167.1 (100%). Calculated for C36H52N4O4 0.08 CH2Cl2: C, 70.85; H, 8.60; N, 9.16. Found: C, 70.89; H, 8.65; N, 8.86.

reactant | 6-(4-{3-[(R)-((2S,5 R)-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester | 2.72 mmol, 1.50 g | C(C)OC(CCCCCN1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN[C@@H](C1)C)C)=O)=O | C32H46N4O4
reactant | cyclopropanecarboxaldehyde | 5.5 mmol, 0.38 g | C1(CC1)C=O | C4H6O
product | 6-(4-{3-[(R)-((2S,5R)-4-Cyclopropylmethyl-2,5-dimethyl-piperazin-1-yl)-(3-hydroxy-phenyl)-methyl]-benzoyl}-piperazin-1-yl)-hexanoic acid ethyl ester | 0.63 g | C(C)OC(CCCCCN1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN([C@@H](C1)C)CC1CC1)C)=O)=O | C36H52N4O4
